US07683176B2
N-[2-(5-bromo-4-(isoxazol-3-yl)-4H-1,2,4-triazol-3-yl)-5-chloropyridin-3-yl]-4-chloro-3-(trifluoromethyl)benzenesulfonamide
4-Chloro-N-[5-chloro-2-(4-(isoxazol-3-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl]-3-(trifluoromethyl)benzenesulfonamide (80 mg) in CCl4/DCM (3 mL/1 mL) was charged with NBS (30 mg). The resulting mixture was stirred at room temperature for 6 h. The reaction mixture was diluted with sat NaHCO3 and extracted EtOAc (50 mL×2), the combined organic layer was concentrated under reduced pressure. The residue was purified through automated normal-phase chromatography (10% to 100% gradient of EtOAc-Hexane), and followed by preparative HPLC (10% to 90% gradient of MeCN-water) and dried (Lyophilizer) to afford the title compound. 1H NMR (400 MHz, CDCl3) δ 11.6 (br, 1H), 8.60 (d, 1H), 8.46 (s, 1H), 8.27 (s, 1H), 8.19 (d, 1H), 7.98 (dd, 1H), 7.62 (d, 1H), 6.63 (d, 1H). MS (ES) [M+H]+ expected 584.0, found 584.0.

reactant | 4-Chloro-N-[5-chloro-2-(4-(isoxazol-3-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl]-3-(trifluoromethyl)benzenesulfonamide | 80 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C1=NOC=C1)C(F)(F)F | C17H9Cl2F3N6O3S
reactant | NBS | 30 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 DCM | 3 mL | C(Cl)(Cl)(Cl)Cl.C(Cl)Cl
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[2-(5-bromo-4-(isoxazol-3-yl)-4H-1,2,4-triazol-3-yl)-5-chloropyridin-3-yl]-4-chloro-3-(trifluoromethyl)benzenesulfonamide | BrC=1N(C(=NN1)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C1=NOC=C1 | C17H8BrCl2F3N6O3S
